US08030497B2
b) [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-methanol
NaBH4 (65 mg, 1.72 mmol) is added to a solution of 370 mg (0.858 mmol) 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde in 5 ml absolute ethanol at 0° C. The reaction mixture is stirred at 0° C. for 20 min. Then the reaction mixture is poured on water and extracted (3×) with dichloromethane/isopropanol (3:1). The combined organic layers are washed with water (2×) and brine, dried over MgSO4, filtered and concentrated in vacuo to afford 380 mg of the title compound as a pure crystalline solid.

reactant | NaBH4 | 1.72 mmol, 65 mg | [BH4-].[Na+]
reactant | 4-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole-5-carbaldehyde | 0.858 mmol, 370 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)C=O | C21H23BrN2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [4-Bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazol-5-yl]-methanol | 380 mg | BrC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)CO | C21H25BrN2O3
